US08114874B2
8-(Benzyloxy)-3-bromoimidazo[1,2-a]pyridine:
To a solution of crude 8-(benzyloxy)imidazo[1,2-a]pyridine (8.73 g, 38.9 mmol) in 100 mL of EtOH was added, dropwise, 4.8 mL (46.7 mmol) of a solution of 1:1 Br2/H2O at ambient temperature under an atmosphere of N2. The resulting dark orange suspension was stirred at ambient temperature for 30 min, added 60 mL 1N NaOH, and the reaction mixture extracted with DCM. The combined organic layers were dried over Na2SO4 and concentrated. The crude product was purified by silica gel flash chromatography (eluted with 30% EtOAc/hexanes) to provide 7.04 g of product.

reactant | 8-(benzyloxy)imidazo[1,2-a]pyridine | 38.9 mmol, 8.73 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=CN2 | C14H12N2O
reactant | Br2 H2O | BrBr.O
reactant | NaOH | 1N, 60 mL | [OH-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 8-(Benzyloxy)-3-bromoimidazo[1,2-a]pyridine | 7.04 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=CN2)Br | C14H11BrN2O
